US06953790B2
Step B. 2-(Aminomethyl)-N-(2,4-dimethoxybenzyl)pyridin-3-amine
Lithium aluminum hydride (1.0 M in THF, 13.3 mL, 13.3 mmol) was added slowly to a solution of 3-[(2,4-dimethoxybenzyl)amino]pyridine-2-carbonitrile (3.25 g, 12.1 mmol) in tetrahydrofuran (40 mL) at 0° C. The reaction was warmed to room temperature and stirred for 4 h. The reaction was carefully quenched with a saturated aqueous solution of sodium sulfate, filtered with copious dichloromethane and concentrated to produce the title compound (2.68 g). MS 274.3 (M+1).

reactant | Lithium aluminum hydride | 13.3 mmol, 1.0 M, 13.3 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-[(2,4-dimethoxybenzyl)amino]pyridine-2-carbonitrile | 12.1 mmol, 3.25 g | COC1=C(CNC=2C(=NC=CC2)C#N)C=CC(=C1)OC | C15H15N3O2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-(Aminomethyl)-N-(2,4-dimethoxybenzyl)pyridin-3-amine | 2.68 g | NCC1=NC=CC=C1NCC1=C(C=C(C=C1)OC)OC | C15H19N3O2
